US07576115B2
1) Synthesis of 1-[5-(4-trifluoromethylphenyl)-1-methyl-4-hydroxy-1H-pyrazol-3-yl]ethanone
2-Oxopropanal methylhydrazone (8.540 mmol, 855 mg) synthesized in Reference Synthetic Example 1 and (4-trifluoromethylphenyl)(oxo)acetaldehyde (6.432 mmol, 1.3 g) synthesized in Reference Synthetic Example 7 were dissolved in acetic acid (30 mL) and stirred at 100° C. for about 5 hours. Then, the solvent was evaporated, and the residue was dried by means of a vacuum pump and purified by silica gel column chromatography (n-hexane/AcOEt=2/1, and 4/1) to give the desired product as an orange solid (157.3 mg, yield 8.6%).

reactant | 2-Oxopropanal methylhydrazone | 8.540 mmol, 855 mg | CNN=CC(C)=O | C4H8N2O
reactant | (4-trifluoromethylphenyl)(oxo)acetaldehyde | 6.432 mmol, 1.3 g | FC(C1=CC=C(C=C1)C(C=O)=O)(F)F | C9H5F3O2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 1-[5-(4-trifluoromethylphenyl)-1-methyl-4-hydroxy-1H-pyrazol-3-yl]ethanone | 157.3 mg, yield 8.6% | FC(C1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=O)O)(F)F | C13H11F3N2O2
